US08168825B2
Preparation of N-[2,6-dimethyl-4-{1-chloro-2,2,2-trifluoro-1-(trifluoromethyl)ethyl}phenyl]3-(benzoylamino)benzamide (Compound No. I-419)
At room temperature, 8.0 g of N-[2,6-dimethyl-4-{1-hydroxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl}phenyl]3-(benzoylamino)benzamide and 1.0 g of pyridine were introduced to 40 ml of thionyl chloride. Then, the temperature was elevated, and the mixture was stirred under reflux conditions. After the loss of the starting material was confirmed through TLC, the reaction solution was cooled and was concentrated under reduce pressure. Thus obtained residue was purified by silica gel chromatography (eluent:hexane:ethyl acetate=3:1) to give 6.2 g (yield 75%) of the title compound as a powder form.

reactant | N-[2,6-dimethyl-4-{1-hydroxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl}phenyl]3-(benzoylamino)benzamide | 8.0 g | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)C)NC(C1=CC(=CC=C1)NC(C1=CC=CC=C1)=O)=O | C25H20F6N2O3
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 1.0 g | N1=CC=CC=C1 | C5H5N
product | N-[2,6-dimethyl-4-{1-chloro-2,2,2-trifluoro-1-(trifluoromethyl)ethyl}phenyl]3-(benzoylamino)benzamide | 6.2 g, yield 75% | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)Cl)C)NC(C1=CC(=CC=C1)NC(C1=CC=CC=C1)=O)=O | C25H19ClF6N2O2
